US08859541B2
D1a) [6-[2-[methyl-[(2-methylpropan-2-yl)oxycarbonyl]amino]propanoylamino]-2-[2-tri(propan-2-yl)silylethynyl]pyridin-3-yl]boronic acid
A mixture of tert-butyl-N-[1-[[5-bromo-6-[2-tri(propan-2-yl)silylethynyl]pyridin-2-yl]-amino]-1-oxopropan-2-yl]-N-methylcarbamate C1a (51 g, 90 mmol), bis(neopentyl glycolato)diboron (40.5 g, 179 mmol), KOAc (26.4 g, 269 mmol), 1,1′-Bis(diphenyl-phosphino)ferrocene]dichloropalladium(II) (3.3 g, 4.5 mmol) and dioxane (400 ml) is stirred under argon atmosphere for 17 h at 50° C. The mixture is diluted with DCM and extracted with a saturated aqueous solution of NaHCO3. The combined organic layers are dried over MgSO4 and concentrated in vacuo. The product is purified by NP chromatography. Yield: 21.9 g (48%). HPLC-MS: M+H=504; tR=2.17 min (*Method—4).

reactant | tert-butyl-N-[1-[[5-bromo-6-[2-tri(propan-2-yl)silylethynyl]pyridin-2-yl]-amino]-1-oxopropan-2-yl]-N-methylcarbamate | C(C)(C)(C)OC(N(C)C(C(=O)NC1=NC(=C(C=C1)Br)C#C[Si](C(C)C)(C(C)C)C(C)C)C)=O | C25H40BrN3O3Si
reactant | bis(neopentyl glycolato)diboron | 179 mmol, 40.5 g | B1(OCC(CO1)(C)C)B2OCC(CO2)(C)C | C10H20B2O4
reactant | KOAc | 269 mmol, 26.4 g | CC(=O)[O-].[K+]
reactant | dioxane | 400 ml | O1CCOCC1 | C4H8O2
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | 1,1′-Bis(diphenyl-phosphino)ferrocene | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | dichloropalladium(II) | 4.5 mmol, 3.3 g | Cl[Pd]Cl
product | [6-[2-[methyl-[(2-methylpropan-2-yl)oxycarbonyl]amino]propanoylamino]-2-[2-tri(propan-2-yl)silylethynyl]pyridin-3-yl]boronic acid | CN(C(C(=O)NC1=CC=C(C(=N1)C#C[Si](C(C)C)(C(C)C)C(C)C)B(O)O)C)C(=O)OC(C)(C)C | C25H42BN3O5Si
